US08426414B2
Part D: 2-Pyridin-2-yl-cyclopropanecarboxylic acid tert-butyl ester
To a stirred suspension of sodium tert-butoxide (7.63 g, 79.4 mmol) in 1,2-dimethoxyethane (70 mL) at ambient temperature was added tert-butyl diethylphosphonoacetate (20.0 g, 79.4 mmol) over 30 minutes, then allowed to stir a further 40 minutes then 3-(oxiran-2-yl)pyridine (4.8 g, 39.7 mmol) was added drop wise. The suspension was stirred at for 30 minutes then heated to 65° C. overnight. The reaction was poured onto ice and extracted with diethyl ether. The combined organic extracts were washed with saturated aqueous sodium chloride, dried (MgSO4), and evaporated to provide an orange oil which was purified by flash chromatography (elution solvent: 20% (v/v) hexane/dichloromethane) to obtain 3.0 g of purified material.

reactant | sodium tert-butoxide | 79.4 mmol, 7.63 g | CC(C)([O-])C.[Na+]
reactant | tert-butyl diethylphosphonoacetate | 79.4 mmol, 20.0 g | C(C)OP(=O)(OCC)CC(=O)OC(C)(C)C | C10H21O5P
reactant | 3-(oxiran-2-yl)pyridine | 39.7 mmol, 4.8 g | O1C(C1)C=1C=NC=CC1 | C7H7NO
solvent | 1,2-dimethoxyethane | 70 mL | COCCOC | C4H10O2
product | 2-Pyridin-2-yl-cyclopropanecarboxylic acid tert-butyl ester | 3.0 g | C(C)(C)(C)OC(=O)C1C(C1)C1=NC=CC=C1 | C13H17NO2
